Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Penicillins
 
Attending: ___
 
Chief Complaint:
Orthostasis, low blood pressure, lab abnormalities
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ man with H/O methamphetamine induced dilated 
cardiomyopathy (LVEF 35% in ___ hepatitis C, HIV (history of 
non-compliance with HAART), polysubstance abuse, DVT on Coumadin 
(___) which was discontinued due to noncompliance in ___ who presents from clinic with orthostasis, hyponatremia, 
hyperkalemia, and acute renal failure (baseline cr=0.9). 
Patient's HPI begins approximately one month ago when he began 
to feel a general malaise and increased urination. He does not 
endorse increased thirst. His appetite is normal and denies 
weight loss. He does endorse indigestion. Over the past month, 
he has been down titrating his medications for heart failure 
including his torsemide. He still continues to work as a ___ 
___ and walks several miles a day without chest pain, 
palpitations or shortness of breath. He recently went to see his 
ID physician who started him on Atripla for decreasing white 
count. He was urged to come to the hospital as a direct admit 
for elevated transaminases, hyperkalemia, hyponatremia, and 
acute renal failure. He says that he is feeling "pretty good." 
He denies recent illicit drug use and says that he drinks 
alcohol occasionally.

On arrival to the floor, patient was comfortable in no acute 
distress, breathing comfortably without chest pain or 
complaints. Patient with good appetite and ate a sandwich.

REVIEW OF SYSTEMS
On review of systems, he denies any prior history of stroke, 
TIA, bleeding at the time of surgery, myalgias, joint pains, 
cough, hemoptysis, black stools or red stools. He denies recent 
fevers, chills or rigors. He denies exertional buttock or calf 
pain. All of the other review of systems were negative.

Cardiac review of systems is notable for absence of chest pain, 
dyspnea on exertion, paroxysmal nocturnal dyspnea, orthopnea, 
ankle edema, palpitations, syncope or presyncope.
 
Past Medical History:
- HIV (diagnosed ___, CD4: 627, VL: 2,880 copies/ml in ___
- Non-ischemic dilated cardiomyopathy with EF of ___
- Chronic transaminitis (HCV vs. congestive hepatopathy)
- Hepatitis C virus seropositivity
- Depression
- HPV
 
Social History:
___
Family History:
- Mother and many relatives of mother: ___
- Father: CVA
- No family history of early MI, arrhythmia, cardiomyopathies, 
or sudden cardiac death; otherwise non-contributory.
 
Physical Exam:
GENERAL: Young man in NAD. Oriented x3. Mood, affect 
appropriate.
VS: T=97.4 BP=95/60 HR=78 RR=18 O2 sat=100%
HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were 
pink, no pallor or cyanosis of the oral mucosa. No xanthalesma.
NECK: Supple
CARDIAC: RR, normal S1, S2. No murmurs, rubs or gallops. No 
thrills, lifts.
LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp 
were unlabored, no accessory muscle use. CTAB, no crackles, 
wheezes or rhonchi.
ABDOMEN: Soft, non-tender, not distended. No HSM or tenderness. 
Negative ___ sign.
EXTREMITIES: No clubbing, cyanosis or edema.
SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.
PULSES:
Right: Carotid 2+ Femoral 2+ Popliteal 2+ DP 2+ ___ 2+
Left:  Carotid 2+ Femoral 2+ Popliteal 2+ DP 2+ ___ 2+
 
Pertinent Results:
___ 04:00PM BLOOD WBC-4.8 RBC-4.45* Hgb-13.1* Hct-37.6* 
MCV-85 MCH-29.4 MCHC-34.8 RDW-14.2 Plt ___
___ 04:00PM BLOOD  WBC-4.8 Lymph-55* Abs ___ CD3%-89 
Abs CD3-2352* CD4%-21 Abs CD4-565 CD8%-66 Abs CD8-1741* 
CD4/CD8-0.3*
___ 04:00PM   ___

___ 06:50AM BLOOD WBC-3.8* RBC-3.73* Hgb-10.7* Hct-31.6* 
MCV-85 MCH-28.7 MCHC-33.9 RDW-14.5 Plt ___

___ 04:00PM BLOOD UreaN-73* Creat-2.0* Na-129* K-5.2* 
Cl-92* HCO3-26 AnGap-16
___ 06:50AM BLOOD Glucose-101* UreaN-53* Creat-1.2 Na-136 
K-4.9 Cl-105 HCO3-25 AnGap-11

___ 04:00PM BLOOD ALT-1473* AST-1010* AlkPhos-162* 
TotBili-0.7
___ 06:50AM BLOOD ALT-1033* AST-607* AlkPhos-143* 
TotBili-0.5
___ 04:00PM BLOOD Digoxin-0.5*
___ 09:15PM BLOOD Acetmnp-NEG
___ 06:50AM BLOOD Albumin-3.9 Mg-2.3 Cholest-127
___ 06:50AM BLOOD Triglyc-181* HDL-30 CHOL/HD-4.2 
LDLcalc-61

ECG ___  6:30:44 ___
Sinus rhythm. Normal tracing. Compared to the previous tracing 
of ___ the prior abnormalities are no longer present.

RUQ Ultrasound ___
The hepatic architecture is normal in appearance. No focal liver 
lesion is identified. No biliary dilatation is seen and the 
common duct measures 0.3 cm. The gallbladder is normal in 
appearance with no gallstones. The pancreas and aorta are 
obscured from view by overlying bowel gas. The spleen is again 
noted to be enlarged measuring 13.8 cm, unchanged from the prior 
ultrasound. No hydronephrosis is seen on limited views of the  
kidneys. No ascites is seen in the abdomen.
DOPPLER EXAMINATION: Color Doppler and spectral waveform 
analysis was performed. The main, right and left portal veins 
are patent with hepatopetal flow. Appropriate arterial waveforms 
are seen in the main hepatic artery. The hepatic veins are 
patent and the splenic vein is patent at the splenic hilum.
IMPRESSION:
1. No biliary obstruction and no focal liver lesion identified.
2. Patent hepatic vasculature.
3. Stable splenomegaly.
 
Brief Hospital Course:
___ man with H/O methamphetamine induced dilated 
cardiomyopathy (LVEF 35% in ___ hepatitis C, HIV (history of 
non-compliance with HAART), polysubstance abuse, DVT on Coumadin 
(___) which was discontinued due to noncompliance in ___ who presents as planned direct admission arranged by 
cardiology clinic with orthostasis, hyponatremia, hyperkalemia, 
and acute renal failure (baseline cr=0.9).

Acute Renal Failure:
Patient had recent lab values consistent with acute renal 
failure. His blood urea nitrogen was 70 and creatinine was 2.3, 
suggestive of a prerenal etiology for his acute renal failure. 
Further supporting this diagnosis was the fact that the patient 
had recently been taking torsemide and having his dose decreased 
secondary to polyuria over the past month. Upon arrival to the 
floor, the patient had not taken any of his medications 
prescribed for heart failure with the exception of metoprolol. 
In the absence of torsemide, the patient's serum transaminases 
and serum creatinine slightly decreased. The patient was given a 
500 mL bolus of normal saline and he ate a regular meal for 
dinner without fluid restrictions. By withholding the loop 
diuretic and repleting intravascular volume, his sodium, 
potassium, and creatinine normalized the following day. As a 
result, all of the patient's medications with the exception of 
metoprolol were held. Given that the patient has systolic heart 
failure, he will need restarted on these medications. It is 
likely that his medication regimen was escalated slightly too 
aggressively and needs to retitrated.  
- The patient has follow-up labs which will be drawn in 2 days, 
and he has an appointment with his primary care physician who 
can review the laboratory values and reassess the patient’s 
medications.
- The patient also has an appointment with his out patient 
cardiologist in 6 days. During that visit, Dr. ___  ___ 
re-titrate the patient’s medications for optimal cardiac 
secondary and primary prevention.

Elevated AST/ALT:  
- Patient presented with market elevations in his serum 
transaminases. Our differential for this diagnosis was broad. 
Given his past history of DVT, there was a concern of hepatic 
venous thrombosis. This was excluded by his right upper quadrant 
Doppler ultrasound study. Congestive hepatopathy is also an 
unlikely diagnosis given that the patient was clinically 
euvolaemic or even hypovolemic upon presentation. A viral 
etiology for his liver enzyme abnormalities could not be ruled 
out given the patient's HIV and hepatitis C. Hepatology was 
consulted and they felt like the most likely cause of his 
elevated liver enzymes was due to hypoperfusion. Once the 
patient was given back volume, his liver enzymes trended down 
slightly (but were still markedly elevated). His primary care 
physician ___ check his LFTs on ___ and should abnormalities 
still persist then outpatient referral to a hepatologist may be 
warranted.
Recommendations per hepatology consult:
1. Continue to monitor LFTs until recovery to baseline.
2. F/u HCV viral load q 6 months 
3. Maintain adequate blood pressure and avoid systemic arterial 
hypotension
4. OK to do trial of Atripla once his LFTs normalize.

Chronic left ventricular systolic heart failure.
Echocardiogram performed the day prior to admission showed LVEF 
35%-40%. There was mild to moderate global left ventricular 
hypokinesis with normal cavity size. Mildly dilated right 
ventricular cavity with mild free wall hypokinesis. Compared 
with the prior study (images reviewed) of ___, the left 
ventricular cavity is less dilated, the global function is 
improved, and the degree of mitral regurgitation is decreased. 
He was continued on his beta-blocker.

In summary: the patient presented to ___ 3 generally feeling 
well. He has been able to walk his dogs several miles a day 
without chest pain or shortness of breath. His appetite was good 
and the patient was in good spirits during his hospitalization. 
His lab abnormalities began to correct in the setting of holding 
his medications (with the exception of his beta blocker) and 
putting the patient on a regular diet. 
 
Medications on Admission:
1. Digoxin: 125 µg once a day
2. Doxycycline 100 mg twice a day
3. Atripla 1 tab at bedtime (not started, but prescribed 1 day 
ago)
4. Lisinopril 20 mg daily
5. Metoprolol 100 mg extended-release daily
6. Spironolactone 25 mg 1 tab by mouth daily
7. Torsemide 20 mg 1 tablet daily
8. Ambien 5 mg QHS
9. Multivitamin
 
Discharge Medications:
1. metoprolol succinate 50 mg Tablet Extended Release 24 hr Sig: 
One (1) Tablet Extended Release 24 hr PO DAILY (Daily). Disp:*7 
Tablet Extended Release 24 hr(s)* Refills:*0*
2. Ambien 5 mg Tablet Sig: One (1) Tablet PO at bedtime as 
needed for insomnia.
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
1. Acute renal failure, attributed to overdiuresis
2. Orthostatic Hypotension
3. Abnormal liver transaminases
4. Hyponatremia
5. Known human immunodeficiency virus infection
6. Known hepatitis C infection
7. Chronic left ventricular systolic heart failure
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Dear Mr. ___, 

It was a pleasure taking care of you. You were admitted to ___ 
with orthostasis, acute renal failure, and elevated liver 
enzymes. Withholding your medications, except metoprolol, and 
giving you 500cc of iv fluids, your kidney injury has resolved. 
Your liver enzymes are trending down and your blood pressure is 
normal. After you are discharged please weigh yourself every 
day, with the same scale and at the same time of day. If you 
notice a two pound weight gain or greater. Please call Dr. 
___ Dr. ___. If you experience any of the danger signs 
listed below, please return to the ___ ED. 

Until Dr. ___ your PCP tell you otherwise, you should 
take the following medications. Please note that we have 
temporarily decreased your long acting beta blocker (Metoprolol 
succinate or metoprolol XL) to 50mg from 100mg. 

Please take: 
1. Metoprolol XL 50mg extended release once a day 
2. Ambien as needed for sleep 

Please do not take any of your other medications until you talk 
to your doctors next week at clinic. Your outpatient 
cardiologist and primary care physician ___ add back your other 
medications as needed. If you have any questions or concerns 
please call your physician to let them know. 
Be well. 
Sincerely, 
Your Cardiology Team at ___ 
 
Followup Instructions:
___